US08133998B2
To a cooled (0° C.) solution of 2,4-difluoroaniline, (1.5 g, 11.6 mmol) in DCM (50 mL) was added triethylamine (1.9 mL, 13.9 mmol) followed by 2-chloroacetyl chloride (1.0 mL, 12.8 mmol). The reaction was warmed to RT and stirred for 2 h. The reaction mixture was concentrated, redissolved in EtOAc (50 mL) and washed with brine (50 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to yield 2.2 g of crude product which was further purified by flash column chromatography using 1:1 EtOAc:hexanes as the eluent. 2.0 g of 2-chloro-N-(2,4-difluorophenyl)acetamide, (yield: 84%) was isolated.

reactant | 2,4-difluoroaniline | 11.6 mmol, 1.5 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | triethylamine | 13.9 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | 12.8 mmol, 1.0 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2,4-difluorophenyl)acetamide | 2.0 g, yield: 84% | ClCC(=O)NC1=C(C=C(C=C1)F)F | C8H6ClF2NO
